Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: "You have made yourself known"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old married man with prior diagnosis of 
depression and medical history significant for HTN, DM, and CAD, 
family history of schizophrenia and BPAD, who is brought in by 
his wife after his PCP suggested that he appeared manic and in 
need of psychiatric evaluation.  
. 
On initial interview in the ED, the patient was noted to be  
pressured, intrusive, tangential, paranoid, and agitated on 
approach, difficult to follow and obviously angry at having been 
brought to the hospital, saying "I'm not crazy!  This is the 
human condition, man!", adding "Why shouldn't a person be
allowed to dance on tables?" While initially uncooperative with 
care, he does eventually allow medical evaluation, including 
screening labs and NCHCT, none of which reveal obvious acute 
abnormalities.  History is obtained primarily from his wife, 
___, present at the bedside. 
. 
Per the patient's wife, a nurse, ___ has "always been 
irritable, with a lot of depression for most of his life and 
some manic episodes recently"; she says "I didn't realize it 
until now, but I think he's bipolar", describing how, for the 
last several months, the patient has appeared agitated, 
argumentative,
grandiose, goal-driven, and impulsive, with decreased need for 
sleep.  She says that he was laid off his job as an ___ 
___ in ___ of last year after having "yelled at his boss" 
and believes that his symptoms have gradually worsened since 
that time.  She states that he currently spends the majority of 
his time smoking marijuana in the basement while obsessing over 
___, though he has in the last few days incessantly 
posted nonsensical, grandiose, or paranoid statements on 
Facebook- declaring, for example, "his goal to save humanity", 
or stating "they're out to get me"- which has caused his friends
concern; note that the patient requested to "friend" this writer 
on Facebook during the course of the interview.  ___ states 
that the patient recently insisted on driving separately to his 
granddaughter's school recital in case "he needed to get away in 
a hurry", afraid an unidentified party was following him.
. 
___ additionally describes how the patient will pace the 
house for 30 minutes at a time, only occasionally sitting down, 
appearing "catatonic", still and staring straight ahead, mute, 
for up to 15 minutes.  If their eldest daughter, age ___ and 
diagnosed with bipolar disorder, is home, ___ states that the 
patient will follow her about the house "talking non-stop".  She
notes that yesterday "he only talked in rhymes".  She is unsure 
whether he has been compliant with zolpidem for sleep, retiring 
to bed at 4:30 AM and rising at 8:00 AM for the past few months. 
 She ultimately brought him to the ED not only for his 
disorganization but inability to care for self, noting that he
now requires prompting to shower and will only eat when she 
prepares and places food in front of him.  
. 
She says that, while the patient has in the last ___ years 
experienced numerous episodes of depression, he refuses to 
accept medications, clarifying "he's in denial".  Though he has 
never been diagnosed with bipolar disorder she recounts how, 
___ years ago, he flew to ___ and spent $1,000 on souvenirs, 
spending $8,000 on souvenirs while traveling through ___ ___ 
years ago.  She further describes how, when angry, the patient 
will "throw things, throw things out of the house" recalling an 
episode last ___ in which he threw a cup which struck her in 
the head resulting in a laceration requiring multiple sutures-
her children, alarmed, called the police, who arrested the 
patient and charged him with simple assault.  His current legal 
status remains unclear.
. 
The patient initially greets this writer with hostility when 
told that he will be hospitalized shouting "You'd better give me 
a lobotomy, or kill me, 'cause if you don't turn this thing 180 
degrees there'll be hell to pay!" but eventually accepts his 
disposition, rounding on his wife to say "It's better that I get 
out of that INSANE house- the two of you are CRAZY!", referring
to his wife and daughter.  He initially claims he does not trust 
this writer but changes his mind after inquiring as to the 
origin of my surname, saying "Those are good people!  
Trustworthy people!  Will you promise to come back and talk to 
me so I can tell you what I'm really about?"
. 
Course in Emergency Department: Patient did not take any 
medications. He did not require any chemical restraints. He was 
notable to be irritable at times but otherwise cooperative. 
.
 
Past Medical History:
Past psychiatric history:
Diagnosis: Depression
Hospitalizations: denies 
Current treaters and treatment: Psychologist Dr. ___ in
___
Medication and ECT trials: Per wife has never been prescribed
antipsychotics or ___ have been prescribed an
antidepressant but has never been compliant with medication; 
Self-injury: Denies
Harm to others: Charged with simple assault for throwing a cup 
at
his wife in ___ wife denies other episodes
Access to weapons: Denies
.
Past medical history:
- DM2
- HTN
- CAD
.
Medications:
- Alprazolam 0.5 mg PO qHS PRN insomnia
- Zolpidem 10 mg PO qHS PRN insomnia
- Invokana 100 mg PO daily
- Omega-3 ethyl esters 1 g PO daily
- Rosuvastatin 20 mg PO qHS
- Valsartan-HCTZ 320-12.5 mg PO daily
- Vitamin D2 50,000 U PO ___
.
Allergies:
NKDA

 
Social History:
Substance use history:
Alcohol: occasional  use, no history of withdrawal.  
Tobacco: Approximately ___ PPD.
Illicits: Endorses marijuana use for the past year. 
.
FORENSIC HISTORY:
Arrests: ___, charged with simple assault
Convictions and jail terms: None per wife
Current status: Unknown
.
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: 
Mother with schizophrenia, daughter with bipolar disorder, son 
with depression and ADD
 
Physical Exam:
Physical Examination:
VS @ 9am BP: 126/84  HR: 86  temp: 97.4  resp: 16 O2 sat: ___ ___ 
105
.
General- Well appearing, well nourished male, speaking in full
sentences, restless.
Skin- warm, well perfused, no rash
HEENT- FROM, atraumatic, normocephalic
Neck and Back- FROM, non-tender
Lungs- CTAB, no wheezes
CV- RRR, nl S1/S2
Abdomen: Soft, non-distended, non-tender
Extremities- none tender
.
Neuro-
CN: 
      pupils symmetry and responsiveness to light and
accommodation: declined
     visual fields: full
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy
Motor: ___ strength B/L in UE and ___ 
*Deep tendon Reflexes: declined
Sensation: intact ___ in UE
Coordination:
     Finger-nose-finger - intact
Gait/Romberg: steady narrow based gait. Negative Romberg
.
Neuropsychiatric Examination:
- Appearance: Male, appears stated age, wearing casual clothes
- Behavior: Approaches nursing station to complain about being 
"manipulated and treated like a dog" here. When asked to 
complete physical exam today he was agreeable but required 
frequent redirection to leave nursing station and move to a 
private room for exam. Exam conducted in pts bedroom with open 
door. Patient showed this writer his books about the ___ 
and pursuing happiness.
- Mood and Affect: "I'm being tortured" Affect: expansive,
slightly irritable.
- Thought process: flight of ideas
- Thought Content: no AH, VH, SI or HI disclosed. Reports that 
he feels that with ever interaction he is being "roughed up" 
including during our exam. Paranoid about decisions being made 
by medical personal, reports that he is being restricted from 
his medications, does not trust that wife will help him. 
- Judgment and Insight: impaired/impaired
.
Cognition:
- Attention, *orientation, and executive function: orientated
to situation and being in the hospital. Able to attend to
conversation but distracted by stimuli in his bedroom and
distracted by wanting to talk about issues unrelated to physical
exam.
- Memory: declined to engage in formal testing, reports that
"I can't think straight, I'm under duress, you are torturing me"
- Fund of knowledge: grossly appropriate
- Calculations: does not engage in formal testing 
- Abstraction: does not engage in formal testing 
- Visuospatial: does not engage in formal testing 
- Speech: increased rate, able to be interrupted
- Language: fluid ___, no paraphasic errors. Some
repetition of words with a sentence. No clanging 

 
Pertinent Results:
___ 06:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:45PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-TR* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:45PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 06:10PM   GLUCOSE-146* UREA N-13 CREAT-1.2 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-96 TOTAL CO2-26 ANION GAP-16
___ 06:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 06:10PM   WBC-11.4* RBC-5.16 HGB-15.8 HCT-46.2 MCV-90 
MCH-30.6 MCHC-34.2 RDW-13.0 RDWSD-43.0
___ 06:10PM   NEUTS-61.2 ___ MONOS-8.1 EOS-0.9* 
BASOS-0.4 IM ___ AbsNeut-6.97* AbsLymp-3.29 AbsMono-0.92* 
AbsEos-0.10 AbsBaso-0.04
___ 06:10PM   PLT COUNT-315
 
Brief Hospital Course:
#. Legal/Safety: Patient admitted to ___ 4 on a ___ initially upon admission he declined to sign a conditional 
voluntary agreement (section 10 & 11) but later signed a CV with 
several 3 day notices. Patient maintained his safety throughout 
his admission on 15 minute checks and did not require physical 
or chemical restraints. He was noted to be somewhat disruptive 
in the milieu at times and somewhat intrusive at times but he 
was redirectable with no unsafe behaviors. Of note, patient did 
sign a 3 day notice that expired on the day of discharge. Given 
his compliance with medication, significant improvement in his 
disorganized thought process, consistent denial of suicidal 
ideation or thoughts of self harm, he did not meet criteria to 
file a 7&8b. 
.
#. Bipolar disorder, manic episode with psychotic features
- Patient initially presented with mania with psychotic features 
characterized by decreased need for sleep, racing thoughts, 
pressured speech, impulsivity, paranoia, and persecutory 
delusions; per his wife, he had experienced numerous episodes of 
depressions and two episodes of mania in the past suggesting a 
diagnosis of bipolar disorder rather than a historical diagnosis 
of unipolar depression. 
- After discussion of the risks and benefits, we initially 
started risperidone that was eventually converted to 
paliperidone and titrated up to 9 mg po qhs. He tolerated this 
medication well with some complaints of headache that responded 
well to prn Tylenol. Of note, we did discuss the pros and cons 
of starting a long acting injectable, which the patient declined 
during this hospitalization 
- Given manic symptoms, we also discussed the risks and benefits 
of lithium and the patient was amenable to a trial. lithium was 
started at 300 mg po qhs, which he tolerated well without 
complaints of side effects. Lithium level on ___ was 0.7. 
- For insomnia, patient was stated on Valium ___ mg po qhs with 
significant improvement in sleep
- Of note, the patient was compliant in attending groups and was 
occasionally disruptive and intrusive but with no unsafe 
behaviors. In the setting of the structure of the unit and on 
the above medications, the patient's condition improved 
significantly-- mood lability, agitation, irritability improved 
as did his sleep. Thought process became significantly more 
organized, linear, goal oriented with some improvement in his 
insight. Of note, he consistently denied suicidal ideation, 
thoughts of self harm, or harm to others during his 
hospitalization. In addition, he attended to his ADL's 
appropriately-- no evidence that he would be unable to care for 
himself. 
- Prior to discharge a family meeting was held and his wife 
agreed that his condition had improved and felt safe having him 
return home. Patient and his wife were counseled extensively on 
the importance of following up with outpatient treaters and 
continuing his medications as prescribed. 
.
#. Cannabis use disorder
Patient was counseled on the importance of cessation given the 
potential that significant daily marijuana use may have been 
contributing to his psychiatric presentation. Patient reported 
he would abstain from cannabis use. 
. 
#. HTN: stable during this admission
- Continued valsartan 320 mg PO daily and HCTZ 12.5 mg PO daily. 
 Confirmed with patent's PCP that he was no longer on 
bisoprolol.  
.
#. Type II DM: stable
- Continued on metformin 1000 mg PO BID and invokana 100 mg PO 
daily as 
. 
#. CAD: Stable
Continued on rosuvastatin 20 mg PO qHS and initiated on aspirin 
81 mg PO daily.
. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.5 mg PO QHS:PRN insomnia 
2. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
3. Invokana (canagliflozin) 100 mg oral DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Rosuvastatin Calcium 20 mg PO QPM 
6. valsartan-hydrochlorothiazide 320-12.5 mg oral DAILY 
7. Metformin 1000 mg oral BID

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Diazepam 5 mg PO QHS:PRN insomnia 
RX *diazepam 5 mg 1 tab by mouth at bedtime Disp #*15 Tablet 
Refills:*0 
3.  Lithium Carbonate SR (Lithobid) 300 mg PO QHS 
Lithobid SR 
RX *lithium carbonate 300 mg 1 capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0 
4.  MetFORMIN (Glucophage) 1000 mg PO BID  
5.  Nicotine Polacrilex 1 STCK PO Q1H:PRN craving 
RX *nicotine (polacrilex) [Nicorelief] 2 mg 1 piece every 2 
hours Disp #*50 Gum Refills:*0 
6.  PALIperidone ER 9 mg PO QPM 
RX *paliperidone [Invega] 9 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
7.  Fish Oil (Omega 3) 1000 mg PO DAILY  
8.  Invokana (canagliflozin) 100 mg oral DAILY  
9.  Rosuvastatin Calcium 20 mg PO QPM  
10.  valsartan-hydrochlorothiazide 320-12.5 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder, most recent episode manic with psychotic 
features
Cannabis use disorder  

 
Discharge Condition:
VS: 97.4    100/68    93     16    98%RA 
A/B: Appears stated age, dressed casually, good hygiene and 
grooming, clam, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'okay' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: significantly more linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: improved/improved 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___